US09126957B2
To a solution of (3aR,4R,5R,6R,7aS)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-2-(pyrrolidin-1-yl)-3a,4,5,6,7,7a-hexahydrobenzo[d]thiazole (0.200 g, 0.369 mmol) was added excess boron trichloride-methyl sulfide complex (1.70 g, 9.48 mmol). The mixture was stirred at room temperature for 4 days, and then quenched with MeOH at 0° C. The quenched solution was stirred for 10 min, and then concentrated under reduced pressure to dryness. The residue was purified on silica gel by flash column chromatography (1.0 M NH3 in MeOH/CH2Cl2, 1:4), affording (3aR,4R,5R,6R,7aS)-6-(hydroxymethyl)-2-(pyrrolidin-1-yl)-3a,4,5,6,7,7a-hexahydrobenzo[d]thiazole-4,5-diol an off-white solid (0.058 g, 58%). 1H NMR (400 MHz, CD3OD) 4.35-4.33 (m, 1H), 3.79 (dd, J=4.1, 10.4 Hz, 1H), 4.74 (dd, J=6.1, 8.6 Hz, 1H), 3.63 (dd, J=6.1, 10.4 Hz, 1H), 3.50-3.46 (m, 2H), 3.44-3.30 (m, 3H), 3.22 (t, J=10.4, 1H), 2.23-2.18 (m, 1H), 1.98-1.91 (m, 5H), 1.78-1.61 (m, 1H); 13C NMR (100 MHz, CD3OD) δ 164.62, 78.45, 76.43, 74.37, 64.12, 54.72, 50.27, 40.73, 26.90, 26.44; MS, m/z=273 (M+1).

reactant | (3aR,4R,5R,6R,7aS)-4,5-bis(benzyloxy)-6-((benzyloxy)methyl)-2-(pyrrolidin-1-yl)-3a,4,5,6,7,7a-hexahydrobenzo[d]thiazole | 0.369 mmol, 0.200 g | C(C1=CC=CC=C1)O[C@H]1[C@@H]([C@H](C[C@H]2[C@@H]1N=C(S2)N2CCCC2)COCC2=CC=CC=C2)OCC2=CC=CC=C2 | C33H38N2O3S
reactant | boron trichloride-methyl sulfide complex | 9.48 mmol, 1.70 g | [B-]([S+](C)C)(Cl)(Cl)Cl | C2H6BCl3S
product | (3aR,4R,5R,6R,7aS)-6-(hydroxymethyl)-2-(pyrrolidin-1-yl)-3a,4,5,6,7,7a-hexahydrobenzo[d]thiazole-4,5-diol | OC[C@H]1C[C@H]2[C@H](N=C(S2)N2CCCC2)[C@H]([C@@H]1O)O | C12H20N2O3S
